US07446199B2
Step D: Benzyl-(4-{3-[4-(2,3-difluoro-phenyl)-isoxazol-5-yl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-cyclohex-3-enyl)-amine (136)
A mixture of 1-[5-(4-benzylamino-cyclohexyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-2-(2,3-difluoro-phenyl)-ethanone (150 mg, 0.27 mmol. Preparation: see below) and t-butoxybis(dimethylamino)methane (0.27 ml, 1.0 mmol, Brederck's reagent) in THF (5 ml) was heated at 60° C. for 2 h. The reaction mixture was concentrated and dried under high vacuum for 0.5 h. The residue was dissolved in Ethanol (10 ml), refluxed with hydroxylamine hydrogen chloride (94 mg, 1.35 mmol) and sodium acetate (1.62 mmol) for 2.5 h. The mixture was concentrated and suspended in satd. NaHCO3 and filtered. The solid was further purified by chromatography to give 50 mg of the desired product in 38.4% yield.

reactant | 1-[5-(4-benzylamino-cyclohexyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-2-(2,3-difluoro-phenyl)-ethanone | 0.27 mmol, 150 mg | C(C1=CC=CC=C1)NC1CCC(CC1)C=1C=C2C(=NC1)NC=C2C(CC2=C(C(=CC=C2)F)F)=O | C28H27F2N3O
reactant | t-butoxybis(dimethylamino)methane | 1.0 mmol, 0.27 ml | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
reactant | hydroxylamine hydrogen chloride | 1.35 mmol, 94 mg | Cl.NO
reactant | sodium acetate | 1.62 mmol | C(C)(=O)[O-].[Na+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | Benzyl-(4-{3-[4-(2,3-difluoro-phenyl)-isoxazol-5-yl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-cyclohex-3-enyl)-amine | 50 mg, 38.4% yield | C(C1=CC=CC=C1)NC1CC=C(CC1)C=1C=C2C(=NC1)NC=C2C2=C(C=NO2)C2=C(C(=CC=C2)F)F | C29H24F2N4O
